US08012976B2
A mixture of methyl 3-(3-(4-isobutyryl piperazine-1-carbonyl)phenyl)-4-oxo-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (140 mg, 0.26 mmol) in 85% hydrazine monohydrate (10 mL) and methanol (3 mL) was stirred at 25° C. for 4 hr. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by prep-HPLC to give compound 9-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (11 mg, yield 8%) as a white solid. 1H-NMR (400 MHz, CD3OD) δ (ppm): 1.1-1.13 (m, 6H), 2.95-2.98 (m, 1H), 3.26-3.68 (m, 8H), 4.40-4.42 (d, J=8.4 Hz, 1H), 4.82-4.84 (d, J=8.4 Hz, 1H), 7.19-7.32 (m, 4H), 7.36-7.39 (m, 3H), 7.59-7.68 (m, 2H), 8.41-8.42 (d, J=6.0 Hz, 2H); LC-MS (ESI) m/z: 523(M+1)+.

reactant | methyl 3-(3-(4-isobutyryl piperazine-1-carbonyl)phenyl)-4-oxo-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.26 mmol, 140 mg | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=NC=C1 | C31H32N4O5
reactant | hydrazine monohydrate | 10 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 9-(3-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 11 mg, yield 8% | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=NC=C2 | C30H30N6O3
